Name:  ___                       Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
ciprofloxacin / fluconazole
 
Attending: ___.
 
Chief Complaint:
Abdominal pain
 
Major Surgical or Invasive Procedure:
None

 
History of Present Illness:
___ w/ h/o EtOH pancreatitis c/b multiple infected pseudocysts 
s/p transgastric endoscopic cyst gastrostomy and percutaneous 
drainage of R flank fluid collection, p/w new LUQ pain x ___ 
weeks, increasing over the past week (especially yesterday).  
She was previously taking 6 mg Dilaudid q8h, but now is up to 
8mg q8h. No f/c, no n/v.  No diarrhea; +constipation.  Her TF 
were decreased in an attempt to encourage PO intake, but eating 
caused her pain. She reports she takes 2 Ensures and 1 serving 
of clear liquid per day.  

 
Past Medical History:
Per ___ and ___ discharge summary ___.
Hypertension.
Hypercholesterolemia.
Diabetes ___ pancreatitis.
Metabolic toxic encephalopathy
Depression.
Diverticulitis s/p sigmoid resection and end colostomy unable to 
be reversed b/c severe scarring and fibrosis.
Anemia of chronic disease.
Breast Ca s/p bl mastectomy and chemotherapy ___ years ago.
ETOH abuse.
Bowel obstruction.
Pancreatic pseudocyst.
s/p appendectomy for ruptured appendix.
s/p laparoscopy - pelvic pain r/o endomitriosis

 
Social History:
___
Family History:
Cancer
 
Physical Exam:
Prior Discharge:
VSS, Afebrile
GEN: Pleasant with NAD
CV: RRR, no m/r/g
PULM: CTAB
ABD: Soft, tender for deep palpations around ostomy site. LLQ 
ostomy with ostomy appliance and brown liquid stool, RUQ ___ 
drain to gravity drainage into ostomy bag with purulent fluid.
EXTR: warm, no c/c/e
 
Pertinent Results:
___ 08:00PM BLOOD WBC-14.1* RBC-4.43# Hgb-12.4# Hct-36.9# 
MCV-83 MCH-28.1 MCHC-33.7 RDW-16.3* Plt ___
___ 08:40AM BLOOD WBC-9.1 RBC-4.34 Hgb-12.1 Hct-37.0 MCV-85 
MCH-27.9 MCHC-32.8 RDW-16.2* Plt ___
___ 08:00PM BLOOD Glucose-101* UreaN-7 Creat-0.4 Na-138 
K-3.8 Cl-103 HCO3-23 AnGap-16
___ 08:00PM BLOOD ALT-15 AST-19 AlkPhos-111* TotBili-0.2
___ 08:00PM BLOOD Albumin-4.0 Calcium-9.6 Phos-3.0 Mg-1.6
___ 08:00PM BLOOD Lipase-14

___ ABD CT:
IMPRESSION:  Decrease in peripancreatic and right posterolateral 
fluid 
collections compared to ___. No new fluid 
collections. 

 
Brief Hospital Course:
The patient well known for Dr. ___ was admitted to the General 
Surgical Service for evaluation of increased abdominal pain. On 
admission, the patient underwent abdominal CT scan which 
demonstrated multiple multiloculated rim-enhancing fluid 
collections surrounding the pancreas, but all smaller compare to 
CT scan from ___, no new collections were identified. Patient 
remained afebrile with elevated WBC on admission. Patient was 
made NPO with IV fluids, continued on home dose Micafungin and 
her pain was well controlled with Dilaudid PCA. On HD # 2, 
patient's diet was advanced to clears and she was restarted on 
TF at goal, PCA was converted to PO Dilaudid. Patient was 
started on aggressive bowel regiment with Colace, Senna and Milk 
of Magnesia. Patient's abdominal pain improved on clears, and 
she tolerated tubefeeds at goal. WBC returned to normal on HD # 
3. During hospitalization, patient's stoma was evaluated by 
Ostomy nurse and their recommendations were followed. Patient 
was discharged home on HD # 4 in stable condition.
At the time of discharge, the patient was doing well, afebrile 
with stable vital signs. The patient was tolerating a regular 
diet, ambulating, voiding without assistance, and pain was well 
controlled. The patient received discharge teaching and 
follow-up instructions with understanding verbalized and 
agreement with the discharge plan.

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. Duloxetine 60 mg PO DAILY 
2. Gabapentin 300 mg PO TID 
3. Gemfibrozil 600 mg PO BID 
4. HYDROmorphone (Dilaudid) 8 mg PO Q3H:PRN pain 
5. Pancrelipase 5000 2 CAP PO TID W/MEALS 
6. Lorazepam 0.5 mg PO Q8H:PRN anxiety 
7. Micafungin 100 mg IV Q24H 
8. Ondansetron 4 mg PO Q8H:PRN nausea 
9. Pantoprazole 40 mg PO Q24H 
10. Prochlorperazine 5 mg PO Q6H:PRN nausea 
11. Tamoxifen Citrate 20 mg PO DAILY 
12. Docusate Sodium 100 mg PO BID 
13. Senna 2 TAB PO QHS 

 
Discharge Medications:
1. Docusate Sodium 100 mg PO BID 
2. Duloxetine 60 mg PO DAILY 
3. Gabapentin 300 mg PO Q8H 
4. Gemfibrozil 600 mg PO BID 
5. HYDROmorphone (Dilaudid) ___ mg PO Q4H:PRN pain 
6. Micafungin 100 mg IV Q24H 
7. Milk of Magnesia 30 mL PO Q6H:PRN constipation 
RX *magnesium hydroxide [Milk of Magnesia] 400 mg/5 mL 20 mL by 
mouth three times a day:PRN Disp #*200 Fluid Ounce Refills:*3
8. Pancrelipase 5000 2 CAP PO Q 8H 
9. Senna 1 TAB PO BID 
10. Tamoxifen Citrate 20 mg PO DAILY 
11. Florastor (saccharomyces boulardii) 250 mg Oral BID 

 
Discharge Disposition:
Home With Service
 
Facility:
___
 
Discharge Diagnosis:
Infected pancreatic pseudocyst

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
You were admitted to the surgery service at ___ for evaluation 
of your abdominal pain. You now feel better and are now safe to 
return home to complete your recovery with the following 
instructions:
.
Please ___ Dr. ___ office at ___ if you have any 
questions or concerns.
.
Please resume all regular home medications , unless specifically 
advised not to take a particular medication.  Also, please take 
any new medications as prescribed.
Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids.  Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon, who will instruct you further regarding activity 
restrictions.
Avoid driving or operating heavy machinery while taking pain 
medications.
Please follow-up with your surgeon and Primary Care Provider 
(PCP) as advised.
.
RUQ ___ drain: 
*Please look at the site every day for signs of infection 
(increased redness or pain, swelling, odor, yellow or bloody 
discharge, warm to touch, fever).
*If the drain is connected to a collection container, please 
note color, consistency, and amount of fluid in the drain.  ___ 
the doctor, ___, or ___ nurse if the amount 
increases significantly or changes in character. Be sure to 
empty the drain frequently.  Record the output, if instructed to 
do so.
*Wash the area gently with warm, soapy water or ___ strength 
hydrogen peroxide followed by saline rinse, pat dry, and place a 
drain sponge. Change daily and as needed.
*Keep the insertion site clean and dry otherwise.
*Avoid swimming, baths, hot tubs; do not submerge yourself in 
water.
*Make sure to keep the drain attached securely to your body to 
prevent pulling or dislocation.
.
Monitoring Ostomy output/Prevention of Dehydration:
*Keep well hydrated.
*Replace fluid loss from ostomy daily.
*Avoid only drinking plain water. Include Gatorade and/or other 
vitamin drinks to replace fluid.
*Try to maintain ostomy output between 1000mL to 1500mL per day. 

*If Ostomy output >1 liter, take 4mg of Imodium, repeat 2mg with 
each episode of loose stool. Do not exceed 16mg/24 hours.
.
PICC Line:
*Please monitor the site regularly, and ___ your MD, nurse 
practitioner, or ___ Nurse if you notice redness, swelling, 
tenderness or pain, drainage or bleeding at the insertion site.
* ___ your MD or proceed to the Emergency Room immediately if 
the PICC Line tubing becomes damaged or punctured, or if the 
line is pulled out partially or completely.  DO NOT USE THE PICC 
LINE IN THESE CIRCUMSTANCES.Please keep the dressing clean and 
dry. Contact your ___ Nurse if the dressing comes undone or is 
significantly soiled for further instructions.

 
Followup Instructions:
___